US07658979B2
Synthesis of 4-benzyloxy-2-chloro-benzoic acid ethyl ester
16.76 g (83.5 mmol) of 2-chloro-4-hydroxy-benzoic acid ethyl ester and 23.1 g (167 mmol) of potassium carbonate were added to 100 mL of methyl ethyl ketone followed by the addition of 17.1 g (100 mmol) of bromomethylbenzene while stirring. After refluxing for 28 hours, the mixture was cooled and filtered. The filtrate was concentrated and the residue was purified by silica gel column chromatography to obtain 21.1 g of a light yellow solid.

reactant | 2-chloro-4-hydroxy-benzoic acid ethyl ester | 83.5 mmol, 16.76 g | C(C)OC(C1=C(C=C(C=C1)O)Cl)=O | C9H9ClO3
reactant | potassium carbonate | 167 mmol, 23.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethylbenzene | 100 mmol, 17.1 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | methyl ethyl ketone | 100 mL | C(C)C(=O)C | C4H8O
product | 4-benzyloxy-2-chloro-benzoic acid ethyl ester | 21.1 g | C(C)OC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)=O | C16H15ClO3
